US07402598B2
(v) 4-(Benzyloxy)-7-[(1R)-2-bromo-1-hydroxyethyl]-1,3-benzothiazol-2(3H)-one
A solution of [(R)-tetrahyro-1-methyl-3,3-diphenyl-1H,3H-pyrrolo[1,2-c] [1,3,2]-oxazaborole] (22 μl of 1M in toluene) in dry THF(1 ml) was cooled to −5° C., stirring under nitrogen. Borane-methyl sulfide complex (2M solution in THF, 11 μl) was added and stirred for 10 min at −5° C. A solution of 4-(benzyloxy)-7-(bromoacetyl)-1,3-benzothiazol-2(3H)-one (47 mg) in dry THF (1.5 ml) was added dropwise and then another 66 μl of borane-methyl sulfide complex (2M solution in THF). The reaction mixture was left for 72 h at less than 5° C. and then partitioned between 2N HCl and ethyl acetate. The organic solution was dried (MgSO4), filtered and evaporated in vacuo. The residue was purified on a 5 g silica SPE cartridge, eluting with a stepped gradient of 10% to 25% ethyl acetate-cyclohexane mixtures to give the title compound (33 mg). LCMC RT=3.19 min.

reactant | (R)-tetrahyro-1-methyl-3,3-diphenyl-1H,3H-pyrrolo[1,2-c] [1,3,2]-oxazaborole | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
reactant | Borane methyl sulfide | 2M, 11 μl | B.CSC
reactant | 4-(benzyloxy)-7-(bromoacetyl)-1,3-benzothiazol-2(3H)-one | 47 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(S2)=O)C(CBr)=O | C16H12BrNO3S
reactant | borane methyl sulfide | 2M, 66 μl | B.CSC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 4-(Benzyloxy)-7-[(1R)-2-bromo-1-hydroxyethyl]-1,3-benzothiazol-2(3H)-one | 33 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(S2)=O)[C@H](CBr)O | C16H14BrNO3S
